US08609660B2
Titanium(IV)isopropoxide (3.22 mL, 10.71 mmol) was added to a mixture of 3-(3-chloro-benzoyl)-1H-pyrazole-1-sulfonic acid dimethylamide (1.68 g, 5.35 mmol) and 2-methyl-2-propanesulfinamide (0.71 g, 5.89 mmol) in toluene (32 mL) under nitrogen. The mixture was stirred at 110° C. for 24 hours. The mixture was cooled and poured into brine while rapidly stirring. The mixture was filtered through diatomaceous earth and the filter cake was washed with AcOEt. The filtrate was transferred to a separation funnel where the organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; AcOEt in DCM 0/100 to 10/90). The desired fractions were collected and concentrated in vacuo to yield 3-[(3-chloro-phenyl)-(2-methyl-propane-2-sulfinylimino)-methyl]-pyrazole-1-sulfonic acid dimethylamide (2.17 g, 97% yield) as a yellow oil.

reactant | 3-(3-chloro-benzoyl)-1H-pyrazole-1-sulfonic acid dimethylamide | 5.35 mmol, 1.68 g | CN(S(=O)(=O)N1N=C(C=C1)C(C1=CC(=CC=C1)Cl)=O)C | C12H12ClN3O3S
reactant | 2-methyl-2-propanesulfinamide | 5.89 mmol, 0.71 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
catalyst | Titanium(IV)isopropoxide | 10.71 mmol, 3.22 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 3-[(3-chloro-phenyl)-(2-methyl-propane-2-sulfinylimino)-methyl]-pyrazole-1-sulfonic acid dimethylamide | 2.17 g, 97% yield | CN(S(=O)(=O)N1N=C(C=C1)C(=NS(=O)C(C)(C)C)C1=CC(=CC=C1)Cl)C | C16H21ClN4O3S2
